US06391874B1
(4-(2-Fluoro-benzyloxy)-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 4-(2-fluoro-benzyloxy)aniline and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.72(1H,bs), 9.41(1H,s), 8.91(1H,s), 8.59(1H,d), 8.10(1H, d), 7.65(3H,m), 7.45(1H,m), 7.25(2H,m), 7.18(2H,d), 5.20(2H,s), 2.65(3H,s); m/z (M+1+) 428.

reactant | 4-(2-fluoro-benzyloxy)aniline | FC1=C(COC2=CC=C(N)C=C2)C=CC=C1 | C13H12FNO
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (4-(2-Fluoro-benzyloxy)-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.FC1=C(COC2=CC=C(C=C2)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C)C=CC=C1 | InChI=1S/C24H18FN5O2.ClH/c1-15-29-30-24(32-15)16-6-11-22-20(12-16)23(27-14-26-22)28-18-7-9-19(10-8-18)31-13-17-4-2-3-5-21(17)25;/h2-12,14H,13H2,1H3,(H,26,27,28);1H
